US04762844
3. 3-Amino-2-chloro-5-fluoro-4-methyl-benzoic acid
18.5 g of 2-chloro-5-fluoro-4-methyl-3-nitro-benzoic acid and 51.5 g of Na2S2O4 are boiled in a mixture of 160 ml of glycol monomethyl ether and 160 g of water for 3 hours. 230 ml of 1/2-concentrated HCl are added to the still warm solution. The mixture is boiled up once more, cooled and poured into 560 ml of water. The solid which has precipitated is isolated and dried. Yield: 12.4 g, melting point: 182°-84°.

reactant | 2-chloro-5-fluoro-4-methyl-3-nitro-benzoic acid | 18.5 g | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])C)F | C8H5ClFNO4
reactant | Na2S2O4 | 51.5 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | HCl | 230 ml | Cl | ClH
solvent | glycol monomethyl ether | 160 ml | COCCO | C3H8O2
solvent | water | 160 g | O | H2O
solvent | water | 560 ml | O | H2O
product | 3-Amino-2-chloro-5-fluoro-4-methyl-benzoic acid | NC=1C(=C(C(=O)O)C=C(C1C)F)Cl | C8H7ClFNO2
